US07829580B2
(d) (E)-4-(Acetylsulfanyl)-3-benzylidene-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]piperidine
To a solution of (E)-4-(acetylsulfanyl)-3-benzylidene-piperidine hydrochloride and 2-bromo-2-(2-fluorophenyl)-1-cyclopropylethanone (713 mg) in N,N-dimethylformamide (10 ml) was added potassium carbonate (256 mg) under ice-cooling, and the resulting mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with ethyl acetate and washed with saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate. The solvent was removed in vacuo, and the residue was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (3:17) as the eluent to afford the title compound (531 mg, yield: 68%) as a yellow oil.

reactant | (E)-4-(acetylsulfanyl)-3-benzylidene-piperidine hydrochloride | Cl.C(C)(=O)SC1/C(/CNCC1)=C/C1=CC=CC=C1
reactant | 2-bromo-2-(2-fluorophenyl)-1-cyclopropylethanone | 713 mg | BrC(C(=O)C1CC1)C1=C(C=CC=C1)F | C11H10BrFO
reactant | potassium carbonate | 256 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-4-(Acetylsulfanyl)-3-benzylidene-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]piperidine | 531 mg, yield: 68% | C(C)(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C1=CC=CC=C1 | C25H26FNO2S
